US20010021775A1
6-Cyanobenzoxazolinone (5.0 mmol, 0.80 g) was synthesized as previously described and added to a solution of 3-[1,1′]-biphenyl-1,2-propen-3-one (5.0 mmol, 1.04 g) and triethylamine (10.00 mmol, 1.39 mL) in 40 mL acetonitrile. The reaction mixture was warmed from ambient temperature to 77° C. for 2h. The reaction mixture was concentrated and placed under high vaccum to give the crude product. The crude material was used directly. LRMS: m/z 386 (M+NH4,100). The 1N-[[1,1′]-biphenylcarbonyl]ethyl-6-cyanobenzoxazolinone was converted to its corresponding benzamidine via the Pinner synthesis and amidination with ammonium carbonate to give crude 1N-[4-biphenylcarbonyl]ethyl-6-amidinobenzoxazolinone. The crude product was purified by standard reverse phase HPLC. LRMS:

reactant | [[1,1′]-biphenylcarbonyl]ethyl-6-cyanobenzoxazolinone | C=1(C(=CC=CC1)C(=O)CCC1=CC(=CC2=C1NC(O2)=O)C#N)C2=CC=CC=C2 | C23H16N2O3
reactant | benzamidine | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
product | [4-biphenylcarbonyl]ethyl-6-amidinobenzoxazolinone | C1(=CC=C(C=C1)C(=O)CCC1=CC(=CC2=C1NC(O2)=O)C(N)=N)C2=CC=CC=C2 | C23H19N3O3
